Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
nuts
 
Attending: ___.
 
Chief Complaint:
"Some people were worried about me"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old male sophomore at ___ 
___ with a history of anxiety and depression, with one 
recent hospitalization at ___, and no prior suicide 
attempts, who was sent on a S12 from NEU that says patient was 
reporting suicidal ideation with plan to his ex-girlfriend. 
Psychiatry was consulted for safety evaluation. 

Patient reports going out to get some air and seeing movie alone 
tonight and says that people were wondering where he was because 
he had not responded to text messages for a few hours. On his 
way back from the movies, the campus police approached him and 
he was brought to the ___ emergency department. He believes the 
police were called because some of his friends were worried 
about him, but he is not sure who specifically. He says that 
they were probably worried because he has a history of 
depression and was recently hospitalized. He denies making 
suicidal statements tonight. He does report texting his 
ex-girlfriend and saying that he was sad and that he wanted to 
talk but he does not think that he said anything about wanting 
to kill himself. He currently denies suicidal ideation, intent, 
and plan.

Patient reports being hospitalized a month ago at ___ 
following a bad break-up with his ex-girlfriend. He says he was 
feeling down at the time and had made statements about wanting 
to hurt himself. He denied ever making a suicide attempt and 
denies history of self-injurious behavior. Currently, he 
describes his mood as "not bad, tired" and denies feeling 
hopeless or helpless. He does endorse feeling guilty about 
making his family come to the hospital tonight. He denies 
difficulty with sleep, motivation, concentration, and changes in 
appetite. He reports low energy and always feeling tired. In 
regards to interest in things like video games he says "it could 
be better." Overall, he reports feeling significantly better 
than he did the time of his most recent hospitalization.

He denies history of decreased need for sleep, increased 
goal-directed behavior, and racing thoughts. He denies a history 
of auditory and visual hallucinations. He denies a history of 
paranoia. 

Collateral: ___ (ex-girlfriend) ___ Left VM with 
callback info

___ Police Officer ___ ___ The following 
are messages that the officer saw on ex-girlfriend's phone from 
patient on night of ___:

"goodbye ___, check you're email. I hope you're ready to be 
traumatized. ok I will send you my last words tonight...the 
preparation will be done soon, please read WhatsApp." 

on WhatsApp "like so much could be saved you know, oh well, 
guess it's ___ be what's coming. music coming, ___. I 
wonder what I could say and it wouldn't matter." 

___ ___ He's been having tough time lately, was 
hospitalized for depression related to breakup earlier in the 
___. Has been doing better since but is still down. 
Recently found good psychiatrist, Dr. ___ in ___. She 
increased his medication (appt on ___ and added small amount 
of Abilify. His roommates at school have been a bit on edge 
since he has been back from hospital- patient went alone to 
movies, did not answer texts from roommates, and his roommates 
got worried and did a wellness check. Patient has told dad he is 
not suicidal but a little bit down. On the way back from movie, 
police confronted him for a wellness check. He was cooperative. 
He denied talking about suicide to anyone but had reported 
sending gf a text earlier in the night. Father is not acutely 
concerned for his safety. Patient has never had plan or made an 
attempt that he is aware of. Father would plan to have patient 
spend the night and tomorrow (does not have classes on 
___ at home in ___ with parents. Patient has first 
appointment with psychotherapist scheduled for ___ so father 
would take patient there.

ROS: Denies fever, chills, headache, cough, shortness of breath, 
chest pain, palpitations, abdominal pain, nausea, vomiting, 
diarrhea, constipation, rashes, and MSK pain. "

Collateral obtained by Dr. ___ on ___: "Collateral 
from psychiatrist ___ ___

The patient does not share what is really going on with him. I 
think he is someone who underreports. It makes me nervous. He 
does not have an explanation for his behaviors. This is someone 
who just started in treatment, he does not have an alliance with 
me and he has not seen a therapist yet. Medications: - Patient 
stated this ___ his parents did not pick up his 
medication. - Started Abilify 2mg to augment the Cymbalta, but 
patient never picked it up - Pt was discharged from last 
hospitalization 2 weeks ago on Cymbalta 60 mg, she is not sure 
if pt has been taking it"

ED Course: Calm, behaviorally controlled, some verbal escalation 
with father. ___ adherent. No security intervention or 
restraint. 

Triage: "Pt states he is a NE___ student, states he has been 
feeling depressed lately. Currently denies SI. Presents with NEU 
police with ___ states making statements to ex girlfriend 
about committing suicide and stated he had a plan. Med compliant 
with antidepressants per pt."

RN Notes: "Assumed ___ of patient from triage on a ___. 
Patient with a reported history of anxiety and depression 
presents after ___ campus police from ___ placed 
patient on a ___ after he reportedly made statements to 
his ex-girlfriend about SI. Patient arrives calm and 
cooperative. Patient states that he has been feeling more 
depressed and overwhelmed from school, but he currently denies 
any SI or previous history of suicide attempts. Patient without 
any physical complaints. - Pt medicated am meds. Declining to 
order breakfast. Per sitter at bedside Pt's father ?arguing w/ 
Pt and upsetting Pt. ___ RN spoke to Pt privately and reminded 
Pt that he can choose whether father is allowed to visit. Pt 
verbalizes understanding. Sitter maintained."

___ ___ 08:___ mg ___ 
___ 08:39 PO/NG ARIPiprazole 2 mg ___ 

On admission, patient reports that he had been feeling "kind of 
sad" since his break up with his girlfriend a few months ago. He 
states that after the breakup he was feeling very down and had 
thoughts of suicide with no plan. He states that he can't 
remember exactly what happened but says that he was admitted to 
___ because he told his friend ___ that he was going 
to hurt himself. He denies having a specific plan but felt that 
he didn't want to deal with the stress of the break up anymore. 
He said that the inpatient admission was okay and afterwards he 
felt better for a little while. He went to a new psychiatrist, 
had an appointment coming up to see a therapist, and was started 
on Duloxetine and Ability. He denies side effects from 
medications but hasn't seen any change in his mood yet. He 
reports he has been taking his medications daily since 
discharge.

 Patient said he was feeling better up until yesterday when he 
wanted to talk to his exgirlfriend. She did not want to talk to 
him and this was upsetting. He said he felt guilty because it 
was his fault that they broke up. He states that she was 
ignoring him and so he began to talk to other girls and then she 
found out and broke up with him. Patient reports that yesterday 
after she didn't want to talk to him he was feeling depressed 
and "wanted some space" so he went to the movies. He said that 
he had texted some of his friends messages that must have 
worried them but didn't remember what he wrote. He states that 
he was having suicidal thoughts that "It would better if I just 
didn't have to deal with things" but denies any plans to harm 
himself or end his life. He says then he went back to his dorm 
where he was taken by campus police to the emergency room. 
Patient reports he was feeling a little depressed before the 
break up as well. He says he has always had trouble connecting 
with people and finding friends. He says this exgirlfriend was 
someone he could talk to. Patient states that he doesn't have 
any real support systems in his life right now. He says he has 
friends but they are close and that he doesn't share things with 
his parents or siblings. He says that college has been okay but 
computer science degree has been a lot of work. Patient reports 
that he goes to class, watches Netflix or youtube, then sleeps 
for around ___ hours. He endorses feelings of hopelessness 
recently but not currently. Denies feelings of worthlessness. 
Reports feeling fatigued throughout the day despite sleeping 
___ a night. Reports decreased motivation. Denies changes 
in appetite, weight, concentration, or memory. Denies current 
SI/HI. Denies AVH. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: anxiety, depression
- Hospitalizations: ___, 1 month ago after breakup 
for
self-harm statements
- Partial hospitalizations: none
- Psychiatrist: psychiatrist ___ ___
___; previously Dr. ___
- ___: none
- Medication trials: citalopram, buspirone 
- Suicide attempts: denies attempts but reports many years ago 
he
did have suicidal thoughts with no plan but couldn't remember 
the
circumstances around this
- Self-injurious behavior: denies
- Harm to others: denies
- Trauma: denies
- Access to weapons: denies

PAST MEDICAL HISTORY:
OSA with CPAP

Denies history of head trauma, seizure.
Fatigue
 
MEDICATIONS:
Duloxetine 60mg PO daily
Aripiprazole 2mg PO daily
 
ALLERGIES: 
Allergies  (Last Verified ___ by ___:
*nuts 
 
Social History:
SUBSTANCE USE HISTORY:
- Alcohol: denies 
- Tobacco: denies
- Marijuana: denies
- Other Drugs: denies

FORENSIC HISTORY:
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): N/A

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Psychiatric Diagnoses: Parents and aunt and uncle he suspects
have anxiety or depression but says that no one really talks
about it
- Suicide Attempts/Completed Suicides: denies
- Substance Use Disorders: denies
 
Physical Exam:
ON ADMISSION:
EXAM:
VS: ___ 1745 Temp: 98.3 PO BP: 117/76 HR: 98 RR: 17 O2 sat:
98% 

Wt: ___: Weight: 175.00 (Estimated) (Entered in Nursing 
IPA)
Ht: ___: Height: 69 (Patient Reported) (Entered in Nursing
IPA)
BMI: ___: BMI: 25.8
 
Physical Exam: 
GEN:
HEENT:  Normocephalic, atraumatic. Moist mucous membranes.
Anicteric sclera. 
CV:  Regular rate, normal S1, S2. No murmurs/rubs/gallops. 2+
radial pulses.
RESP: Non-labored. Clear to auscultation bilaterally. No
wheezes/rales/rhonchi.  
ABD: Soft, non-tender, non-distended. Positive bowel sounds
EXT: Warm and well perfused. No gross deformity. No peripheral
edema.
SKIN: No rashes or lesions noted.
 
Neurological Exam: 
- Cranial nerves: 
  II: PERRLA 4mm to 2mm, brisk bilaterally
  III, IV, VI: extraocular movements intact. no nystagmus.
  V: facial sensation to touch equal in all 3 divisions
bilaterally
  VII: face symmetric  on eye closure and smile
  VIII: hearing normal bilaterally to rubbing fingers
  IX, X: palate elevates symmetrically
  XI: head turning and shoulder shrug intact
  XII: tongue midline. 
- Reflexes: 2+ and symmetrical biceps, brachioradialis, patellar
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps, 
hamstrings.
Normal bulk. 
- Sensation: intact and symmetric to light touch. 
- Gait and station:  Good initiation. Narrow-based gait, normal
stride and arm-swing. No ataxia noted. Normal coordination of
finger to nose and heel to shin testing. 
- Abnormal movements:  No tremor or abnormal movements
appreciated.
 
Cognition: 
- Wakefulness/alertness: Awake and alert
- Attention: WORLD backwards with zero errors
- Orientation: Oriented to person, time, place, situation
- Fund of knowledge: appropriate for education
- Calculations: 7 quarters = "$1.75"
- Abstraction: apple/orange = both fruit "the grass is always
greener on the other side" = everything is not always as good as
it seems 
- Speech: fluent, spontaneous, clear. normal volume, rate, tone,
and prosody.
- Language: fluent ___
 
Mental Status:
- Appearance: ___ yo man appearing stated age, wearing hospital
gown, in no apparent distress, good hygiene
- Behavior: Sitting upright, poor eye contact often looking down
at lap/ 
- Attitude: Cooperative, calm, pleasant.
- Mood: "kind of sad"
- Affect: Mood-congruent, dysthymic, somewhat restricted
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content:
  Safety: Denies SI/HI
  Delusions: No evidence of paranoia, etc. 
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
  Insight / Judgment: poor / Limited

ON DISCHARGE:
Mental Status Exam:
Appearance: fair grooming
Facial expression: brighter
eye contact - intermittent
Build: WNL
Behavior: cooperative, pleasant, relaxed
Psychomotor: no abnormal involuntary movements, no psychomotor 
retardation
Speech: normal rate, volume and tone
Mood/affect: "OK", much improved, much brighter affect
Thought process/content: reality oriented, goal directed, denies
SI/HI, denies AH/VH/paranoid delusions, future oriented
Intellectual Functioning: fair concentration
Oriented: x4
Memory: grossly intact
Insight: fair
Judgment: fair

 
Pertinent Results:
___ 01:38AM BLOOD WBC-8.5 RBC-4.97 Hgb-14.5 Hct-44.0 MCV-89 
MCH-29.2 MCHC-33.0 RDW-12.1 RDWSD-39.1 Plt ___
___ 01:38AM BLOOD Neuts-56.7 ___ Monos-8.7 Eos-1.6 
Baso-0.6 Im ___ AbsNeut-4.84 AbsLymp-2.73 AbsMono-0.74 
AbsEos-0.14 AbsBaso-0.05
___ 01:38AM BLOOD Glucose-115* UreaN-11 Creat-0.9 Na-143 
K-3.6 Cl-104 HCO3-26 AnGap-13
___ 07:06AM BLOOD ALT-11 AST-19 AlkPhos-52 TotBili-0.7
___ 07:06AM BLOOD %HbA1c-5.4 eAG-108
___ 07:06AM BLOOD Cholest-196
___ 07:06AM BLOOD Triglyc-105 HDL-44 CHOL/HD-4.5 
LDLcalc-131*
___ 07:06AM BLOOD TSH-0.66
___ 07:06AM BLOOD Trep Ab-NEG
___ 01:38AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:00AM URINE Color-Straw Appear-Clear Sp ___
___ 02:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:00AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
DISCHARGE SUMMARY

1. LEGAL & SAFETY:  
 On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted (with the 
exception of 5 minute checks while on CPAP). He remained in good 
behavioral control, without security intervention or restraints.

2. PSYCHIATRIC:
 #) Major depressive disorder, recurrent, current episode 
severe, without psychotic features
 #) Autism spectrum disorder
 1) On admission, patient endorsed feelings of depressed mood, 
guilt, hypersomnia, fatigue, anhedonia, and decreased 
motivation. He endorsed suicidal ideation for several months 
since a break-up with his ex-girlfriend. ___ notable for poor 
eye contact, dysthymic and somewhat restricted range of affect, 
"kind of sad" mood, with linear/goal oriented thought process. 
Cognitive exam was unremarkable. 
 2) Differential diagnosis included major mood episode, 
adjustment disorder in the setting of relationship loss, 
anxiety. Given duration of depressed mood and neurovegetative 
symptoms, favored diagnosis of MDD. 
 3) Interventions included medication management and initiation 
of ECT. Patient received a total of 6 inpatient unilateral ECT 
sessions ___ from ___, with plan to continue 
as an outpatient. His home duloxetine was discontinued, and 
venlafaxine ER was titrated to 150mg po daily, which he 
tolerated with some transient nausea, resolved by discharge. He 
underwent Personality Assessment Inventory, which revealed 
suicidality, depressive symptoms, anxiety, and difficulty with 
social interaction.
 4) Outcome of ___ hospital admission was brightened and 
more reactive affect, improved eye contact, more engaged and 
talkative in interpersonal interactions. He reported mood 
improved from ___ on admission to ___ on discharge, and 
consistently denied suicidal ideation throughout hospital 
admission, including on day of discharge. He was able to 
identify new coping skills, and to safety plan. Patient plans to 
reach out to parents, ___, or 911 if 
suicidal urges recur. 
 5) Recommendations for future ___ include continued ECT, to 
which patient responded briskly and significantly. Given robust 
response, patient may be able to discontinue ECT after limited 
acute treatment course, but consideration may be given to 
maintenance ECT if depressive symptoms recurred. He would 
benefit from therapy targeted towards building self-esteem and 
social skills. 

3. SUBSTANCE USE DISORDERS:
No active substance use. 

4. MEDICAL
 #) Obstructive sleep apnea: Compliant with home CPAP. 

5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Patient was often visible in the 
milieu, on the computer, occasionally socializing with select 
peers. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Mother and father provided collateral and participated in 
treatment and dispositional planning. Routine family meetings 
were held throughout admission. 

 #) INTERVENTIONS
 - Medications: venlafaxine XR 150mg po qday; aripiprazole 2mg 
po daily; ECT - 12 unilateral treatments (6 completed while 
inpatient, 6 pending - on outp basis).
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy. 
 - Coordination of aftercare: outpatient psychiatry, therapy; 
referral to ___, on waitlist
 - Behavioral Interventions: encouraged CBT skills, challenging 
negative thoughts
 - Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting venlafaxine, and ECT, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient. We discussed the patient's right to decide whether 
to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team. The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS
 On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon suicidal statements 
sent to girlfriend. Their static factors noted at that time 
include chronic mental illness, recent discharge from an 
inpatient psychiatric unit, male gender, Caucasian race, age, 
marital status.  Modifiable risk factors included limited coping 
skills, acute suicidal ideation, psychic pain; which were 
addressed through medication management, therapeutic 
intervention, and ECT. Finally, the patient is being discharged 
with many protective risk factors, including medication 
adherence, engagement with outpatient treaters, no substance 
use, no access to lethal weapons, no prior suicide attempts, 
supportive family, education, intelligence. Overall, patient's 
suicide risk at discharge is considered low, particularly in 
light of lack of suicidal ideation, resolution of depression, 
and strong social supports. Based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DULoxetine ___ 60 mg PO DAILY 
2. ARIPiprazole 2 mg PO DAILY 

 
Discharge Medications:
1.  Venlafaxine XR 150 mg PO DAILY 
RX *venlafaxine 150 mg 1 capsule(s) by mouth once a day Disp 
#*15 Tablet Refills:*0 
2.  ARIPiprazole 2 mg PO DAILY 
RX *aripiprazole 2 mg 1 tablet(s) by mouth once a day Disp #*15 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD, recurrent, severe, without psychotic features
r/o autism spectrum disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
MENTAL STATUS:
 *Appearance: no acute distress; well-developed, Caucasian young
man, appears stated age, dressed casually
 *Behavior: calm, cooperative, engaged, polite. improved
eye contact; intermittent.  
 *Mood and Affect: 'good' ___ / brighter and more reactive 
 *Thought process / *associations: linear, goal-direct, 
coherent.
no looseness of associations. 
 *Thought Content: denies SI. no HI or AVH voiced. not 
responding
to internal stimuli. no delusions elicited.
 *Judgment and Insight: fair / improving

COGNITION:
 Wakefulness/alertness: Alert
 *Attention: intact to interview
 *Orientation: oriented
 *Memory: long-term grossly intact
 *Speech: fluent, spontaneous, clear. normal volume, rate, tone,
prosody. 
 *Language: fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health ___ providers.
-National Suicide Prevention Lifeline
___
-It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___